US07842688B2
f) tert-Butyl 3-allyloxy-4-(4-benzyloxyphenyl)piperidine-1-carboxylate
Analogously to Method D, 12 g of tert-butyl 4-(4-benzyloxyphenyl)-3-hydroxypiperidine-1-carboxylate and 5.4 ml of allyl bromide are reacted. The title compound is obtained as a yellowish oil. Rf=0.31 (1:3 EtOAc-heptane); Rt=5.80.

reactant | tert-butyl 4-(4-benzyloxyphenyl)-3-hydroxypiperidine-1-carboxylate | 12 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C23H29NO4
reactant | allyl bromide | 5.4 ml | C(C=C)Br | C3H5Br
product | tert-Butyl 3-allyloxy-4-(4-benzyloxyphenyl)piperidine-1-carboxylate | C(C=C)OC1CN(CCC1C1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C26H33NO4
